Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
CHIEF COMPLAINT: Chest pain, NSTEMI
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization

 
History of Present Illness:
___ year old man with a h/o COPD who p/w chest pain and elevated 
troponin. Had CP on ___ after eating, resolved, did not 
seek medical care. CP recurrent ___ and once again, resolved 
with rest. Starting ___ at 2PM he developed left-sided and 
substernal CP that radiated to the left arm.  He described the 
feeling as heavy pressure and stated that he felt lightheaded 
and had a chill but no diaphoresis, nausea, or vomiting. Had 
baseline SOB due to COPD which had been getting progressively 
worse over the past few months but isn't acutely worse at this 
time. Had never had CP before ___, no history of heart 
disease.  
  
Initially went to ___ where ekg showed mildly peaked T 
waves laterally and poor R wave progression but no STE or STD. 
Baseline BP was in the 120s, after NTG x 1 dropped to ___ 
systolic, was fluid responsive. CP 6 --> 3 after NTG, and then 
resolved with 2.5mg IV morphine. Also given duonebs due to 
wheezing on exam. Trop 0.157, MBI 10. Patient had taken ASA 81mg 
earlier today so was given additional ASA for a total 325mg. 
Guaic negative so heparin gtt was started and patient was 
transferred to ___.  
  
In the ___ ED initial VS were 98.1, 84, 136/83, 16, 98% on 2L. 
No labs done. CXR showed flattened diaphragms but no acute 
process. Patient was continued on heparin gtt. VS prior to 
transfer were 97.6, 57, 132/80, 14, 98% on 2L.  
 
On the floor patient was comfortable and denied any chest pain 
or other complaints. He admitted that he had lost 10 lbs in the 
past two weeks. 

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: Hypertension  
2. CARDIAC HISTORY:  None 
3. OTHER PAST MEDICAL HISTORY: COPD
 
Social History:
___
Family History:
Mother and father both died of stroke.  Pt was worked up for 
stroke w/negative results.
 
Physical Exam:
Admission:
VS- T 98 BP 104-128/64-88 HR 58-62 RR ___ pO2 98(RA)
Wt: 64.5 kg  
GENERAL- Patient appears comfortable in bed. Oriented x3. Mood, 
affect appropriate.  
HEENT- Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no 
pallor or cyanosis of the oral mucosa.  
NECK- No JVD.  
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS- No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB; expiratory wheeze 
audible from anterior and posterior.  
ABDOMEN- Soft, NTND. No HSM or tenderness.  
EXTREMITIES- No c/c/e.  
SKIN- No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES- Carotid 2+ DP 2+ ___ 2

Discharge:
VS- T 98.5 BP 96-117/60-74 HR ___ RR 18 pO2 95(RA)
I/O: ___ 
GENERAL- Patient appears comfortable in bed. Oriented x3. Mood, 
affect appropriate.  
NECK- No JVD.  
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS- No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB; expiratory wheeze 
audible from anterior and posterior.  
ABDOMEN- Soft, NTND. No HSM or tenderness.  
EXTREMITIES- No c/c/e.  R radial dressing clean, dry and intact. 

SKIN- No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES- Carotid 2+ DP 2+ ___ 2+ 
 
Pertinent Results:
Admission:
___ 06:25AM BLOOD WBC-8.4 RBC-4.06* Hgb-12.8* Hct-39.7* 
MCV-98 MCH-31.7 MCHC-32.4 RDW-12.4 Plt ___
___ 06:25AM BLOOD ___ PTT-108.5* ___
___ 06:25AM BLOOD CK(CPK)-640*
___ 06:25AM BLOOD CK-MB-81* MB Indx-12.7* cTropnT-0.67*
___ 06:25AM BLOOD Calcium-8.6 Phos-3.4 Mg-2.0

Discharge:
___ 06:25AM BLOOD WBC-8.4 RBC-4.06* Hgb-12.8* Hct-39.7* 
MCV-98 MCH-31.7 MCHC-32.4 RDW-12.4 Plt ___
___ 06:42AM BLOOD Glucose-95 UreaN-8 Creat-0.9 Na-139 K-4.0 
Cl-106 HCO3-27 AnGap-10
___ 06:42AM BLOOD CK(CPK)-438*
___ 06:42AM BLOOD CK-MB-35* MB Indx-8.0* cTropnT-1.45*
___ 06:42AM BLOOD Calcium-8.1* Phos-2.9 Mg-2.0

Studies:
CHEST (PORTABLE AP) ___ (final) "No acute cardiopulmonary 
process"

Cardiac Cath ___ (prelim)  "FINAL DIAGNOSIS: 1. One vessel 
coronary artery disease with total occlusion of the mid-RCA.  
The pLCx and mLAD were also noted to have ulcerated plaques of 
~40%. 2. Borderline systemic systolic arterial hypotension. 3. 
Successful angioplasty of the mid RCA total occlusion with a 3.0 
mm balloon. 4. Successful angioplasty of the more proximal RCA 
with a 3.0 mm balloon."

ECHO ___ (final) "The left atrium is normal in size. There 
is mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. There is mild regional left 
ventricular systolic dysfunction with basal to mid inferior 
akinesis/hypokinesis. Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion"

Pending Results:
None
 
Brief Hospital Course:
___ year old man with a h/o COPD, HTN who p/w chest pain and 
elevated troponin without ST elevation.  
  
# NSTEMI: CK peaked at 640, troponin at 1.45.  He remained chest 
pain free following admission. Patient underwent cardiac cath 
___, revealing total occlusion of mid-RCA, which was opened with 
balloon angioplasty.  Another more distal lesion in the RCA was 
also opened with balloon angioplasty.  Echo following 
catheterization showed normal EF with with basal to mid inferior 
akinesis/hypokinesis. He was discharged on high dose aspirin, 
high dose atorvastatin, prasugrel and beta blocker.     
 
# COPD: Was stable on home albuterol/advair  
  
# HTN: Was stable in house; on admission, lowered lisinopril 
dose to accomodate the addition of beta blocker.

Transitional Issues:
-Follow up with Dr. ___ in ___ weeks.

 
Medications on Admission:
MEDICATIONS: 
- Albuterol HFA 90mcg BID:prn  
- Advair HFA BID  
- Lisinopril 20mg daily
 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH BID:PRN SOB 
2. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 Tablet(s) by mouth once a day Disp #*30 
Capsule Refills:*0
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Prasugrel 10 mg PO DAILY 
RX *Effient 10 mg 1 Tablet(s) by mouth once a day Disp #*30 
Capsule Refills:*0
5. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 Tablet(s) by mouth once a day Disp #*30 
Capsule Refills:*0
6. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 Tablet(s) by mouth once a day Disp #*30 
Capsule Refills:*0
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
hold for SBP <100, HR <60 
RX *metoprolol succinate 25 mg 0.5 (One half) Tablet(s) by mouth 
once a day Disp #*15 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the ___ 
with chest pain. While you were here, you had a cardiac 
cathetization which showed blockage of one of the arteries that 
feeds your heart ("Right Coronary Artery").  The blockage was 
opened with a balloon angioplasty and you had increased blood 
flow to the heart and your symptoms improved.

It was a pleasure taking care of you during your hospital stay.
 
Followup Instructions:
___